US06939887B2
Synthesis of 5-amino-1-(4-chlorobenzyl)-7-(trifluoromethyl)-1,3-dihydro-2H-benzimidazol-2-one
Ethyl 4-chlorobenzyl[2,4-diamino-6-(trifluoromethyl)phenyl]carbamate (248.7 mg) was dissolved in ethanol (15 ml), and to the solution was added sodium hydride (51.3 mg). The reaction mixture was heated at reflux for 15 hours. After allowing to cool, to the reaction mixture was added saturated aqueous sodium bicarbonate solution, and the mixture was extracted 3 times with chloroform. The organic layer was washed with saturated brine, dried over anhydrous sodium sulfate, and concentrated in vacuo. The resultant residue was purified by preparative TLC (2 mm, 20×20 cm, CHCl3-methanol=10:1) to give the title compound (78.4 mg).

reactant | Ethyl 4-chlorobenzyl[2,4-diamino-6-(trifluoromethyl)phenyl]carbamate | 248.7 mg | ClC1=CC=C(CN(C(OCC)=O)C2=C(C=C(C=C2C(F)(F)F)N)N)C=C1 | C17H17ClF3N3O2
reactant | sodium hydride | 51.3 mg | [H-].[Na+]
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | ethanol | 15 ml | C(C)O | C2H6O
product | 5-amino-1-(4-chlorobenzyl)-7-(trifluoromethyl)-1,3-dihydro-2H-benzimidazol-2-one | 78.4 mg | NC1=CC2=C(N(C(N2)=O)CC2=CC=C(C=C2)Cl)C(=C1)C(F)(F)F | C15H11ClF3N3O
